US05146002
Synthesis of 1,3,5-tris(4,4-dimethyl-3-oxopentanoyl)benzene
In a 100 ml three-necked flask equipped with a mechanical stirrer, dropping funnel, reflux condenser, and a nitogen-inlet tube, 2.29 gm (57 mmol) of 60% sodium hydride, 5.24 gm (52 mmol) of pinacolone, 4.0 gm (15.8 mmol) of trimethyl-1,3,5-benzenetricarboxylate, and 40 ml of anhydrous tetrahydrofuran were mixed with stirring under nitrogen stream, and the refluxing under heat was continued for 7 hours. After cooling the reaction mixture, 30 ml of 2N aqueous hydrochloric acid was added, and the mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was removed by evaporation to give a crude product. Acetone was added to the crude product, and recrystallization afforded 3.8 gm of the target compound as yellow crystals (yield: 52%).

reactant | sodium hydride | 57 mmol, 2.29 gm | [H-].[Na+]
reactant | pinacolone | 52 mmol, 5.24 gm | CC(C(C)(C)C)=O | C6H12O
reactant | trimethyl-1,3,5-benzenetricarboxylate | 15.8 mmol, 4.0 gm | CC1=C(C(=C(C(=C1C(=O)[O-])C)C(=O)[O-])C)C(=O)[O-]
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | Acetone | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1,3,5-tris(4,4-dimethyl-3-oxopentanoyl)benzene | 3.8 gm, yield: 52% | CC(C(CC(=O)C1=CC(=CC(=C1)C(CC(C(C)(C)C)=O)=O)C(CC(C(C)(C)C)=O)=O)=O)(C)C | C27H36O6
